US07968552B2
In an atmosphere of nitrogen, a 1.0 M diisobutylaluminum hydride THF solution was dropwise added at −78° C. to a THF solution of methyl 1-(2,6-dimethylphenyl)-6-oxo-1,6-dihydropyridine-3-carboxylate. After stirring at −78° C. for 2 hours, the temperature was risen to 0° C., followed by stirring at 0° C. for 1.5 hours. The reaction mixture was warmed up to room temperature, followed by stirring at room temperature for 2 hours. A 1.0 M diisobutylaluminum hydride THF solution was dropwise added to the reaction mixture at 0° C., followed by warming up to room temperature and stirring for 1 hour to obtain methyl 1-(2,6-dimethylphenyl)-6-oxo-1,4,5,6-tetrahydropyridine-3-carboxylate. In an atmosphere of nitrogen, lithium aluminum hydride was added to the resulting methyl 1-(2,6-dimethylphenyl)-6-oxo-1,4,5,6-tetrahydropyridine-3-carboxylate, while cooling on an ice-methanol bath. Thereafter, by stirring the reaction mixture for 2 hours while heating under reflux, [1-(2,6-dimethylphenyl)piperidin-3-yl]methanol was obtained.

reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | methyl 1-(2,6-dimethylphenyl)-6-oxo-1,4,5,6-tetrahydropyridine-3-carboxylate | CC1=C(C(=CC=C1)C)N1C=C(CCC1=O)C(=O)OC | C15H17NO3
product | [1-(2,6-dimethylphenyl)piperidin-3-yl]methanol | CC1=C(C(=CC=C1)C)N1CC(CCC1)CO | C14H21NO
